US08012956B2
To a pressure vessel were added benzyl 3-bromo-4-cyanobenzoate (150 mg, 0.47 mmol) prepared as described in example 11 (steps 1, 2), cesium carbonate (310 mg, 0.95 mmol), cyclohexylamine (108 uL, 0.95 mmol), XANTPHOS (27 mg, 0.047 mmol), tris(dibenzylideneacetone)dipalladium(0) (21 mg, 0.023 mmol), and dioxane (3 mL). The vessel was sealed and heated to 95° C. for 4 h. After cooling to room temperature, the mixture was diluted with ethyl acetate and was washed with water. The aqueous phase was extracted with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography (10% ethyl acetate in hexanes) to provide benzyl 4-cyano-3-(cyclohexylamino)benzoate (118 mg, 0.35 mmol, 75% yield) as a yellow syrup. 1H NMR (400 MHz, CDCl3): 7.45-7.30 (m, 7H), 7.27 (dd, 1H), 5.36 (s, 2H), 4.56 (d, 1H), 3.48-3.38 (m, 1H), 2.08-2.01 (m, 2H), 1.83-1.75 (m, 2H), 1.71-1.64 (m, 1H), 1.46-1.35 (m, 2H), 1.31-1.20 (m, 3H); MS (EI) for C21H22N2O2: 333 (M−H).

reactant | benzyl 3-bromo-4-cyanobenzoate | 0.47 mmol, 150 mg | BrC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1C#N | C15H10BrNO2
reactant | cesium carbonate | 0.95 mmol, 310 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclohexylamine | 0.95 mmol, 108 uL | C1(CCCCC1)N | C6H13N
reactant | XANTPHOS | 0.047 mmol, 27 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.023 mmol, 21 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | benzyl 4-cyano-3-(cyclohexylamino)benzoate | 0.35 mmol, 118 mg, 75% yield | C(#N)C1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)NC1CCCCC1 | C21H22N2O2
